US05998649
Hydrosilation of acetylene with bis(dichlorosilyl)methane in the presence of H2PtCl6. Into the same apparatus as described in Example 1 were placed 125 μl of a 0.1 M H2PtCl6 /IPA solution under a dry nitrogen atmosphere and the IPA removed under vacuum. Into the flask were added 3.01 g of bis(dichlorosilyl)methane and 20 ml of dried benzene. The flask content was heated to reflux temperature and acetylene gas was blown into the content at a rate of 90 ml/min for 3 hours. The reaction products were vacuum distilled at 67 Pa to yield a mixture comprising 1.99 g of 1,1,3,3-tetrachloro-1,3-disilacyclopent-4-ene (TCD-GC area 3.6%); 1,1,3,3-tetrachloro-1,3-disilacyclopentane (TCD-GC area 47.4%); 1,1,3,3,6,6,8,8-octachloro-1,3,6,8-tetrasilaoctane (TCD-GC area 17.2%); and 1,1,3,3,6,6,8,8,11,11,13,13-dodecachloro-1,3,6,8,11,13-hexasilatridecane (TCD-GC area 8.6%). 1,1,3,3-Tetrachloro-1,3-disilacyclopent-4-ene=1H-NMR (CDCl3, ppm): 1.14 (s, 2H, SiCH2Si), 7.36 (s, 2H, CH=CH); 1,1,3,3 -tetrachloro-1,3-disilacyclopentane =1H-NMR (CDCl3, ppm): 1.12 (s, 2H, SiCH2Si), 1.50 (s, 4H, CH2CH2); and 1,1,3,3,6,6,8,8-octachloro-1,3,6,8-tetrasilaoctane=1H-NMR (CDCl3, ppm): 1.41-150 (m, 8H, SiCH2SiCH2CH2SiCH2Si), 5.71 (s, 2H, SiH).

reactant | acetylene | C#C | C2H2
reactant | bis(dichlorosilyl)methane | Cl[SiH](Cl)C[SiH](Cl)Cl | CH4Cl4Si2
product | 1,1,3,3-tetrachloro-1,3-disilacyclopent-4-ene | 1.99 g, 3.6% | Cl[Si]1(C[Si](C=C1)(Cl)Cl)Cl | C3H4Cl4Si2
